US09403834B2
A solution of 1-tert-butyl 2-methyl 3-phenyl-1H-pyrrole-1,2-dicarboxylate (7.00 g, 23.0 mmol) in hydrazine monohydrate (30.0 mL, 617 mmol) was heated at 100° C. for 12 h. The reaction mixture was cooled to room temperature and diluted with water (100 mL). The solid precipitated was filtered through a Büchner funnel and dried under reduced to pressure to yield 3-phenyl-1H-pyrrole-2-carbohydrazide (3.80 g, 81.0%) as a white solid. LCMS method B-3: retention time 1.54 min, [M+1]=202.0. 1H NMR (400 MHz, DMSO-d6) δ ppm: 4.32 (s, 2H), 6.23 (d, J=2.8 Hz, 1H), 6.88 (d, J=2.8 Hz, 1H), 7.21-7.26 (m, 1H), 7.32-7.36 (m, 2H), 7.44-7.47 (m, 2H), 8.37 (s, 1H), 11.40 (br s, 1H).

reactant | 1-tert-butyl 2-methyl 3-phenyl-1H-pyrrole-1,2-dicarboxylate | 23.0 mmol, 7.00 g | C1(=CC=CC=C1)C1=C(N(C=C1)C(=O)OC(C)(C)C)C(=O)OC | C17H19NO4
reactant | hydrazine monohydrate | 617 mmol, 30.0 mL | O.NN
solvent | water | 100 mL | O | H2O
product | 3-phenyl-1H-pyrrole-2-carbohydrazide | 3.80 g, 81.0% | C1(=CC=CC=C1)C1=C(NC=C1)C(=O)NN | C11H11N3O
